US07550598B2
(Z)-3-methyl-4-(quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one
Commercially available Quinoline N-oxide (Aldrich) (145 mg, 1 mmol) and methyl acetoacetate (0.1 mL, 1 mmol) was dissolved in acetic anhydride (2 mL) and heated at 90° C. for 1-2 hrs. The reaction mixture was cooled to room temperature and concentrated in vacuo, and the residue treated with ether. The resulting precipitate was filtered and dried in vacuo. Then, the crude material was dissolved in a mixture of ethanol and acetic acid (10:1, 2 mL) and treated with hydrazine (0.03 mL, 1 mmol). The mixture was stirred at ambient temperature for 18 hrs, and the resulting solid filtered and washed with a minimum amount of ethanol. 1H NMR (400 MHz, DMSO-D6) δ ppm 2.49 (s, 3H), 7.43-7.54 (m, 1H) 7.71 (t, J=7.33 Hz, 2H) 7.89 (d, J=7.83 Hz, 2H) 8.30 (d, J=8.34 Hz, 1H) 11.14 (s, 1H) 11.88 (s, 1H); ESI-MS: m/z calc'd for C13H11N3O 225.09. found 226.2 (M+H)+.

reactant | Quinoline N-oxide | 1 mmol, 145 mg | [N+]1(=CC=CC2=CC=CC=C12)[O-] | C9H7NO
reactant | methyl acetoacetate | 1 mmol, 0.1 mL | C(CC(=O)C)(=O)OC | C5H8O3
reactant | hydrazine | 1 mmol, 0.03 mL | NN | H4N2
solvent | acetic anhydride | 2 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (Z)-3-methyl-4-(quinolin-2(1H)-ylidene)-1H-pyrazol-5(4H)-one | CC/1=NNC(\C1=C\1/NC2=CC=CC=C2C=C1)=O | C13H11N3O
